US08138189B2
1-{3-Chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-benzoyl}-piperidine-4-carboxylic acid ethyl ester
In analogy to Example 26, step 4, 3-chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-benzoic acid, Example 26, step 3, was reacted with piperidine-4-carboxylic acid ethylester and HBTU at 80° C. 1.5 h to give the title compound as a white solid. MS (m/e)=532.8 [M+H+].

reactant | 3-chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-benzoic acid | ClC=1C=C(C(=O)O)C=CC1C(C(C(F)(F)F)(O)C1=CC(=NC=C1)Cl)C | C16H12Cl2F3NO3
reactant | piperidine-4-carboxylic acid ethylester | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
product | 1-{3-Chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-benzoyl}-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)C(C1=CC(=C(C=C1)C(C(C(F)(F)F)(O)C1=CC(=NC=C1)Cl)C)Cl)=O | C24H25Cl2F3N2O4
